US06472544B1
Tert-butyl(3R,5S)-6-chloro-3,5-dihydroxyhexanoate
Sakaguchi flasks of 500 mL capacity were respectively charged with 50 mL of said medium A and, after sterilization, inoculated with the microbial strains indicated in Table 1, respectively. Aerobic shake culture was then carried out at 30° C. for 2 days. From each of the culture broths, the cells were harvested by centrifugation and suspended in 25 mL of 50 mM phosphate buffer (pH 6.5) containing 1% of tert-butyl(5S)-6-chloro-5-hydroxy-3-oxohexanoate (synthesized by the process described in Example 1) and 2% of glucose. The suspension was put in a 500 mL Sakaguchi flask and a reaction was conducted under shaking at 30° C. for 20 hours. After completion of the reaction, the reaction mixture was extracted twice with one volume of ethyl acetate each and the ethyl acetate phase was analyzed by high performance liquid chromatography (column: Nakalai-Tesque, Cosmocil 5CN-R (4.6 mm×250 mm), eluent: 1 mM phosphoric acid/H2O:acetonitrile=5:1, flow rate 0.7 mL/min., detection: at 210 nm, column temperature: 30° C.) for reaction rate and for the diastereomer ratio of the product tert-butyl(3R,5S)-6-chloro-3,5-dihydroxyhexanoate. The results are shown in Table 1.

reactant | tert-butyl(5S)-6-chloro-5-hydroxy-3-oxohexanoate | ClC[C@H](CC(CC(=O)OC(C)(C)C)=O)O | C10H17ClO4
reactant | glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
solvent | phosphate | 50 mM, 25 mL, pH 6.5 | P(=O)([O-])([O-])[O-]
product | Tert-butyl(3R,5S)-6-chloro-3,5-dihydroxyhexanoate | ClC[C@H](C[C@H](CC(=O)OC(C)(C)C)O)O | C10H19ClO4
